US05164390
6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazine-4-yl]-2-hydroxy-3-propanylthio]purine Hemihydrate
To DMF (7 mL), 6-mercaptopurine (5 mmol, 0.85 g) was added in portions and the solution was stirred at room temperature, under N2 for 5 min. Et3N (5 mmol, 0.69 mL) was added dropwise. After 5 min, 1-(1-chloro-2-hydroxy-3-propanyl)-4-[bis(4-fluorophenyl)-methyl]-piperazine (5 mmol, 1.9 g) in DMF (5 mL) was added dropwise over 5 min at room temperature under N2. After 22 h, the solution was filtered through a sintered glass funnel and the filtrate was evaporated (1.0 mm Hg, 50° C., stirring). Silica gel flash chromatography of the crude product (2.34 g) using 10% MeOH:CH2Cl2 gave pure product, 0.630 g (25.4%), mp 115°-116° C. (dec). DCI/MS (M+1) 497. 400 MHz 1H NMR (CDCl3)δ: 8.6 (s, 1H), 8.25 (s, 1H), 7.35 (m, 4H), 6.95 (m, 4H), 4.2 (s, 1H), 4.15 (m, 1H), 3.45 and 3.6 (m, 2H), 2.65 (m, 2H), 2.6 (m, 4H), 2.4 (m, 4H).

reactant | 6-mercaptopurine | 5 mmol, 0.85 g | SC1=C2NC=NC2=NC=N1 | C5H4N4S
reactant | Et3N | 5 mmol, 0.69 mL | CCN(CC)CC | C6H15N
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-[bis(4-fluorophenyl)-methyl]-piperazine | 5 mmol, 1.9 g | ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H23ClF2N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazine-4-yl]-2-hydroxy-3-propanylthio]purine Hemihydrate | O.FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CSC1=C2NC=NC2=NC=N1)O)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCN(CC1)CC(CSC1=C2NC=NC2=NC=N1)O | InChI=1S/2C25H26F2N6OS.H2O/c2*26-19-5-1-17(2-6-19)23(18-3-7-20(27)8-4-18)33-11-9-32(10-12-33)13-21(34)14-35-25-22-24(29-15-28-22)30-16-31-25;/h2*1-8,15-16,21,23,34H,9-14H2,(H,28,29,30,31);1H2
